US05733905
4,10-Dihydro-4-(4-aminobenzoyl)-5H-pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine
A mixture of 5 mmol of 4,10-dihydro-4-(4-nitrobenzoyl)-5H-pyrrolo-[1,2-a]thieno[3,2-e][1,4]diazepine in 25 ml of ethyl alcohol and 25 ml of ethyl acetate containing 0.2 g of 10% Pd/C is hydrogenated for 5 hours. The reaction mixture is filtered through a pad of diatomaceous earth. The filtrate is concentrated in vacuo to a solid which is purified by flash chromatography on silica gel to give the desired product.

reactant | 4,10-dihydro-4-(4-nitrobenzoyl)-5H-pyrrolo-[1,2-a]thieno[3,2-e][1,4]diazepine | 5 mmol | [N+](=O)([O-])C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CS4)C=CC3)C=C1 | C17H13N3O3S
reactant | ethyl acetate | 25 ml, 0.2 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl alcohol | 25 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 4,10-Dihydro-4-(4-aminobenzoyl)-5H-pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CS4)C=CC3)C=C1 | C17H15N3OS
